US06051712
In an analogous manner to that described in Example 36(b), by condensing (3 RS,4RS)-4-(1 -tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-benzoic acid with benzylamine there was obtained tert-butyl (3RS,4RS)-4-(4-benzylcarbamoyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless foam; MS: 551 (M+H)+.

reactant | (3 RS,4RS)-4-(1 -tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-benzoic acid | C(C)(C)(C)OC(=O)N1CC(C(CC1)C1=CC=C(C(=O)O)C=C1)OCC1=CC2=CC=CC=C2C=C1 | C28H31NO5
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | tert-butyl (3RS,4RS)-4-(4-benzylcarbamoyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C35H38N2O4
